US05476875
820 mg of 4-hydroxy-3-methoxy-5-nitrophenyl(3-quinolinyl)ketone are treated with 50 ml of 48 percent hydrobromic acid and held at the reflux temperature for 3 hours. After distillation of the hydrobromic acid at 50°, the residue is treated with 70 ml of hot water and the insoluble constituent is filtered under suction. There is obtained 3,4-dihydroxy-5-nitrophenyl(3-quinolinyl)ketone hydrobromide in the form of yellow crystals of m.p. 270° (dec.).

reactant | 4-hydroxy-3-methoxy-5-nitrophenyl(3-quinolinyl)ketone | 820 mg | OC1=C(C=C(C=C1[N+](=O)[O-])C1=NC2=CC=CC=C2C=C1C(=O)C=1C(=NC2=CC=CC=C2C1)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC)OC | C33H22N4O9
reactant | hydrobromic acid | 50 ml | Br | BrH
product | 3,4-dihydroxy-5-nitrophenyl(3-quinolinyl)ketone hydrobromide | Br.OC=1C=C(C=C(C1O)[N+](=O)[O-])C1=NC2=CC=CC=C2C=C1C(=O)C=1C(=NC2=CC=CC=C2C1)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | InChI=1S/C31H18N4O9.BrH/c36-25-13-17(11-23(30(25)39)34(41)42)27-19(9-15-5-1-3-7-21(15)32-27)29(38)20-10-16-6-2-4-8-22(16)33-28(20)18-12-24(35(43)44)31(40)26(37)14-18;/h1-14,36-37,39-40H;1H
